US04122204
Preparation of 2,2-Dimethyl-2,3-dihydro-7-[N-methyl-N-(4-tert-butylphenylthiosulfenyl)carbamoyloxy] benzofuran
To a solution of 4.0 g (0.024 m) of 2,2-dimethyl-2,3-dihydrobenzofuran-7-ol and 6.56 g (0.024 m) of N-methyl-N-(p-tert-butylphenylthiosulfenyl)carbamoyl fluoride in 25 ml of dioxane was added 2.45 g (0.024 m) of triethylamine. After 24 hours the reaction mixture was diluted with 200 ml of water and the product was extracted in ethylacetate. The organic extract was washed in turn with diluted sodium hydroxide and water, dried over MgSO4 and concentrated under reduced pressure. The product was crystallized from isopropyl ether to yield 4.0 g of a white solid, m.p. 150°-151° C.

reactant | 2,2-dimethyl-2,3-dihydrobenzofuran-7-ol | 4.0 g | CC1(OC2=C(C1)C=CC=C2O)C | C10H12O2
reactant | N-methyl-N-(p-tert-butylphenylthiosulfenyl)carbamoyl fluoride | 6.56 g | CN(C(=O)F)SSC1=CC=C(C=C1)C(C)(C)C | C12H16FNOS2
reactant | triethylamine | 2.45 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
product | 2,2-Dimethyl-2,3-dihydro-7-[N-methyl-N-(4-tert-butylphenylthiosulfenyl)carbamoyloxy] benzofuran | 4.0 g | CC1(OC2=C(C1)C=CC=C2OC(N(SSC2=CC=C(C=C2)C(C)(C)C)C)=O)C | C22H27NO3S2
